US06949536B2
1-[4-(4-Thiazolyl)phenyl]ethanone (Step 2)
To a stirred suspension of phosphorus pentasulfide (24.5 g, 110 mmol) in dioxane (250 ml) was added formamide (28.4 g. 630 mmol), and the mixture was heated at reflux temperature for 2 hours. The reaction mixture was cooled down to room temperature, and the solution was decanted away from solids. To a stirred solution of 1-(4-acetylphenyl)-2-bromo-1-ethanone (2.0 g, 8.3 mmol) in dioxane (80 ml) was added the thioformamide solution, and the mixture was heated at reflux temperature for 13 hours. The reaction mixture was cooled down to room temperature, and made basic by addition of 0.5M NaOH aqueous solution. The whole was extracted with diethylether. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:4) to give the title compound (610 mg, 36% yield).

reactant | phosphorus pentasulfide | 110 mmol, 24.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | formamide | 630 mmol, 28.4 g | C(=O)N | CH3NO
reactant | 1-(4-acetylphenyl)-2-bromo-1-ethanone | 8.3 mmol, 2.0 g | C(C)(=O)C1=CC=C(C=C1)C(CBr)=O | C10H9BrO2
reactant | thioformamide | C(=S)N | CH3NS
reactant | NaOH | 0.5M | [OH-].[Na+]
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 1-[4-(4-Thiazolyl)phenyl]ethanone | 610 mg, 36% yield | S1C=NC(=C1)C1=CC=C(C=C1)C(C)=O | C11H9NOS
